US06326501B1
6-Chloroindole (1.0 g, 6.59 mmol), potassium carbonate (0.5 g), N,N-dimethylformamide (10 mL) and dimethyl carbonate (1.7 mL, 20.21 mmol) were stirred and heated to reflux (˜130° C.). The starting indole was consumed within 3.5 h (as determined by HPLC). After the mixture was then cooled to ˜3° C., ice cold water (50 mL) was added and the resulting oily suspension was extracted with tert-butyl methyl ether (40 mL). The separated organic layer was washed with water (3×25 mL), then was evaporated under vacuum to furnish 5-chloro-1-methylindole as a light yellow oil (1.05 g, 96.1% yield).

reactant | 6-Chloroindole | 6.59 mmol, 1.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl carbonate | 20.21 mmol, 1.7 mL | C(OC)(OC)=O | C3H6O3
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-chloro-1-methylindole | 1.05 g, 96.1% yield | ClC=1C=C2C=CN(C2=CC1)C | C9H8ClN
